### PR TITLE
[Merged by Bors] - feat(Order/CompleteBooleanAlgebra): Himp in terms of sSup

### PR DESCRIPTION
**Pull request by Bergschaf**
---
Himp can be expressed in terms of sSup. Does this fit into mathlib?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — COMMENTED** [review]
This holds a little more generally as
```lean

theorem isGreatest_hImp {α} [GeneralizedHeytingAlgebra α] (a b : α) : IsGreatest {w | w ⊓ a ≤ b} (a ⇨ b) := by
  constructor
  · simp [mem_upperBounds]
  · intro a ha
    simp_all

theorem isLeast_hImp {α} [GeneralizedCoheytingAlgebra α] (a b : α) : IsLeast {w | a ≤ b ⊔ w} (a \ b) := by)
  constructor
  · simp [mem_lowerBounds]
  · intro a ha
    simp_all
```
where the proofs could possibly be golfed.

Perhaps @YaelDillies has opinions on how many versions of this we actually want.

**Comment by YaelDillies** [comment]
There you go:
```
theorem isGreatest_himp {α} [GeneralizedHeytingAlgebra α] (a b : α) :
    IsGreatest {w | w ⊓ a ≤ b} (a ⇨ b) := by simp [IsGreatest, mem_upperBounds]

theorem isLeast_himp {α} [GeneralizedCoheytingAlgebra α] (a b : α) : IsLeast {w | a ≤ b ⊔ w} (a \ b) := by)
  simp [IsLeast, mem_lowerBounds]
```

**Comment by Bergschaf** [comment]
I added these two in the middle:
`lemma isGreatest_sSup {α} [CompleteSemilatticeSup α] (a : α) (s : Set α) :
  IsGreatest s a → sSup s = a :=
    fun h ↦ IsLUB.sSup_eq (IsGreatest.isLUB h)

lemma isLeast_sInf {α} [CompleteSemilatticeInf α] (a : α) (s : Set α) :
  IsLeast s a → sInf s = a :=
    fun h ↦ IsGLB.sInf_eq (IsLeast.isGLB h)`
Are they to trivial or should I do a seperate PR with these two (probably in a more sensible location)?

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 1]
```diff
@@ -415,15 +415,30 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
...
-    simp only [upperBounds, mem_setOf_eq]
-    intro a1 b1
-    simp_all only [himp_inf_self, inf_le_left]
-  · rw [sSup_le_iff]
-    exact fun b_1 a_1 ↦ (fun {α} [Frame α] (a b c : α) ↦ (Frame.le_himp_iff a b c).mpr) b_1 a b a_1
-
+theorem isGreatest_himp {α} [GeneralizedHeytingAlgebra α] (a b : α) :
+    IsGreatest {w | w ⊓ a ≤ b} (a ⇨ b) := by
+  simp only [IsGreatest, mem_setOf_eq, himp_inf_self, inf_le_left, mem_upperBounds, le_himp_iff,
+    imp_self, implies_true, and_self]
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:421]: Please avoid squeezing terminal simps

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 2]
```diff
@@ -415,6 +415,32 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
...
+  simp only [IsLeast, mem_setOf_eq, sup_sdiff_self, le_sup_right, mem_lowerBounds, sdiff_le_iff,
+    imp_self, implies_true, and_self]
+
+lemma isGreatest_sSup {α} [CompleteSemilatticeSup α] (a : α) (s : Set α) :
+  IsGreatest s a → sSup s = a :=
+    fun h ↦ IsLUB.sSup_eq (IsGreatest.isLUB h)
+
+lemma isLeast_sInf {α} [CompleteSemilatticeInf α] (a : α) (s : Set α) :
+  IsLeast s a → sInf s = a :=
+    fun h ↦ IsGLB.sInf_eq (IsLeast.isGLB h)
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:434]: I doubt we need those lemmas as they are a straightforward combination of two simpler lemmas

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 3]
```diff
@@ -415,6 +415,32 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
...
+
+theorem himp_eq_sSup : sSup {w | w ⊓ a ≤ b} = a ⇨ b :=
+  (isGreatest_sSup _ _ (isGreatest_himp a b))
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:437]:
```suggestion
  isGreatest_himp.isLUB.sSup_eq
```
... if you make the two arguments to `isGreatest_himp` implicit

File: Mathlib/Order/CompleteBooleanAlgebra.lean (hunk 1 above)
Comment (Bergschaf) [reply Mathlib/Order/CompleteBooleanAlgebra.lean:421]: Ohh, ok, I did not know that...

File: Mathlib/Order/CompleteBooleanAlgebra.lean (hunk 3 above)
Comment (Bergschaf) [reply Mathlib/Order/CompleteBooleanAlgebra.lean]: Ok, this looks a lot cleaner :smile:

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 4]
```diff
@@ -415,6 +415,21 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
...
 
+theorem isGreatest_himp {α} [GeneralizedHeytingAlgebra α] (a b : α) :
+    IsGreatest {w | w ⊓ a ≤ b} (a ⇨ b) := by
+  simp [IsGreatest, mem_upperBounds]
+
+theorem isLeast_sdiff {α} [GeneralizedCoheytingAlgebra α] (a b : α) :
+    IsLeast {w | a ≤ b ⊔ w} (a \ b) := by
+  simp [IsLeast, mem_lowerBounds]
+
+theorem himp_eq_sSup : sSup {w | w ⊓ a ≤ b} = a ⇨ b :=
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:426]: The name of this lemma (and the one below) is flipped with respect to the statement. I think probably the name is good and you should reverse the statement.

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 5]
```diff
@@ -415,6 +415,21 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
     (hf : Antitone f) (hg : Antitone g) : ⨆ i, f i ⊓ g i = (⨆ i, f i) ⊓ ⨆ i, g i :=
   @iSup_inf_of_monotone α _ ιᵒᵈ _ _ f g hf.dual_left hg.dual_left
 
+theorem isGreatest_himp {α} [GeneralizedHeytingAlgebra α] (a b : α) :
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:418]: Does `#find_,home` suggest any earlier files for this lemma?

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 6]
```diff
@@ -415,6 +415,21 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
...
+  simp [IsGreatest, mem_upperBounds]
+
+theorem isLeast_sdiff {α} [GeneralizedCoheytingAlgebra α] (a b : α) :
+    IsLeast {w | a ≤ b ⊔ w} (a \ b) := by
+  simp [IsLeast, mem_lowerBounds]
+
+theorem himp_eq_sSup : sSup {w | w ⊓ a ≤ b} = a ⇨ b :=
+  (isGreatest_himp a b).isLUB.sSup_eq
+
+theorem sdiff_eq_sInf {α} [Coframe α]  (a b : α) :
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:429]: This should be moved to a `Coframe` section of this file.

File: Mathlib/Order/CompleteBooleanAlgebra.lean (hunk 5 above)
Comment (Bergschaf) [reply Mathlib/Order/CompleteBooleanAlgebra.lean:418]: It suggests all of these: [Mathlib.Data.Int.LeastGreatest, Mathlib.Order.Bounds.Basic, Mathlib.Order.WellFounded, Mathlib.Data.Matrix.CharP, Mathlib.Order.Bounds.Image, Mathlib.Order.Filter.Defs, Mathlib.Algebra.CharP.Pi]
Maybe Order.Bounds.Basic would be a good place?

Comment (eric-wieser) [reply Mathlib/Order/CompleteBooleanAlgebra.lean:418]: Sounds good; please also move the lemma below this one

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 7]
```diff
@@ -480,6 +492,9 @@ theorem iInf_sup_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (· ≤ 
     (hf : Antitone f) (hg : Antitone g) : ⨅ i, f i ⊔ g i = (⨅ i, f i) ⊔ ⨅ i, g i :=
   @iSup_inf_of_monotone αᵒᵈ _ _ _ _ _ _ hf.dual_right hg.dual_right
 
+theorem sdiff_eq_sInf : a \ b = sInf {w | a ≤ b ⊔ w} :=
+  Eq.symm (isLeast_sdiff a b).isGLB.sInf_eq
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:496]:
```suggestion
  (isLeast_sdiff a b).isGLB.sInf_eq.symm
```

File: Mathlib/Order/CompleteBooleanAlgebra.lean (hunk 5 above)
Comment (Bergschaf) [reply Mathlib/Order/CompleteBooleanAlgebra.lean]: I'm not really sure where to put these... Should they  go into their own section?

File: Mathlib/Order/Bounds/Basic.lean [hunk 8]
```diff
@@ -905,3 +905,11 @@ theorem IsGLB.exists_between' (h : IsGLB s a) (h' : a ∉ s) (hb : a < b) : ∃
...
 
 end LinearOrder
+
+theorem isGreatest_himp {α} [GeneralizedHeytingAlgebra α] (a b : α) :
+    IsGreatest {w | w ⊓ a ≤ b} (a ⇨ b) := by
+  simp [IsGreatest, mem_upperBounds]
+
+theorem isLeast_sdiff {α} [GeneralizedCoheytingAlgebra α] (a b : α) :
+    IsLeast {w | a ≤ b ⊔ w} (a \ b) := by
+  simp [IsLeast, mem_lowerBounds]
```
Comment (eric-wieser) [inline Mathlib/Order/Bounds/Basic.lean:915]: I think there is already an ambient variable here?
```suggestion
theorem isGreatest_himp [GeneralizedHeytingAlgebra α] (a b : α) :
    IsGreatest {w | w ⊓ a ≤ b} (a ⇨ b) := by
  simp [IsGreatest, mem_upperBounds]

theorem isLeast_sdiff [GeneralizedCoheytingAlgebra α] (a b : α) :
    IsLeast {w | a ≤ b ⊔ w} (a \ b) := by
  simp [IsLeast, mem_lowerBounds]
```

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 9]
```diff
@@ -415,6 +415,10 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
     (hf : Antitone f) (hg : Antitone g) : ⨆ i, f i ⊓ g i = (⨆ i, f i) ⊓ ⨆ i, g i :=
   @iSup_inf_of_monotone α _ ιᵒᵈ _ _ f g hf.dual_left hg.dual_left
 
+theorem himp_eq_sSup : a ⇨ b = sSup {w | w ⊓ a ≤ b} :=
+  (isGreatest_himp a b).isLUB.sSup_eq.symm
+
+
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:421]:
```suggestion
```

**Review by eric-wieser — COMMENTED** [review]
@YaelDillies, do you think it's sensible to add the analogous
```
bᶜ = sInf {w | CoDisjoint b w}
￢b = sSup {w | Disjoint b w}
```
in this PR too?

**Comment by YaelDillies** [comment]
Yeah, that would make a lot of sense

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 10]
```diff
@@ -490,7 +490,7 @@ theorem sdiff_eq_sInf : a \ b = sInf {w | a ≤ b ⊔ w} :=
   (isLeast_sdiff a b).isGLB.sInf_eq.symm
 
 theorem hnot_eq_sInf_codisjoint : ￢a = sInf {w | Codisjoint a w} := by
-  simp_rw [← Coframe.top_sdiff,sdiff_eq_sInf,codisjoint_iff]
+  simp [← Coframe.top_sdiff,sdiff_eq_sInf,codisjoint_iff,sup_comm]
```
Comment (YaelDillies) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:493]:
```suggestion
  simp [← Coframe.top_sdiff,sdiff_eq_sInf,codisjoint_iff, sup_comm]
```

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 11]
```diff
@@ -415,6 +415,12 @@ theorem iSup_inf_of_antitone {ι : Type*} [Preorder ι] [IsDirected ι (swap (·
     (hf : Antitone f) (hg : Antitone g) : ⨆ i, f i ⊓ g i = (⨆ i, f i) ⊓ ⨆ i, g i :=
   @iSup_inf_of_monotone α _ ιᵒᵈ _ _ f g hf.dual_left hg.dual_left
 
+theorem himp_eq_sSup : a ⇨ b = sSup {w | w ⊓ a ≤ b} :=
+  (isGreatest_himp a b).isLUB.sSup_eq.symm
+
+theorem compl_eq_sSup_disjoint : aᶜ = sSup {w | Disjoint a w} := by
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:421]: Can you add the `isGreatest` spelling of this one too?

File: Mathlib/Order/Bounds/Basic.lean [hunk 12]
```diff
@@ -905,3 +905,11 @@ theorem IsGLB.exists_between' (h : IsGLB s a) (h' : a ∉ s) (hb : a < b) : ∃
   ⟨c, hcs, hac.lt_of_ne fun hac => h' <| hac.symm ▸ hcs, hcb⟩
 
 end LinearOrder
+
+theorem isGreatest_himp [GeneralizedHeytingAlgebra α] (a b : α) :
```
Comment (YaelDillies) [inline Mathlib/Order/Bounds/Basic.lean:909]: I suspect having implicit arguments here will be generally more useful
```suggestion
theorem isGreatest_himp [GeneralizedHeytingAlgebra α] {a b : α} :
```

File: Mathlib/Order/Bounds/Basic.lean [hunk 13]
```diff
@@ -906,10 +906,20 @@ theorem IsGLB.exists_between' (h : IsGLB s a) (h' : a ∉ s) (hb : a < b) : ∃
...
+
+theorem isGreatest_compl [HeytingAlgebra α] {a : α} :
+    IsGreatest {w | Disjoint w a} (aᶜ) := by
+  simp only [← himp_bot,disjoint_iff_inf_le]
+  exact isGreatest_himp
+
+theorem isLeast_hnot [CoheytingAlgebra α] {a : α} :
+    IsLeast {w | Codisjoint a w} (￢a) := by
+  simp only [← CoheytingAlgebra.top_sdiff, codisjoint_iff_le_sup]
+  exact isLeast_sdiff
```
Comment (eric-wieser) [inline Mathlib/Order/Bounds/Basic.lean:925]:
```suggestion
theorem isGreatest_compl [HeytingAlgebra α] {a : α} :
    IsGreatest {w | Disjoint w a} (aᶜ) := by
  simpa only [← himp_bot, disjoint_iff_inf_le] using isGreatest_himp

theorem isLeast_hnot [CoheytingAlgebra α] {a : α} :
    IsLeast {w | Codisjoint a w} (￢a) := by
  simpa only [← top_sdiff, codisjoint_iff_le_sup] using isLeast_sdiff
```

File: Mathlib/Order/Bounds/Basic.lean [hunk 14]
```diff
@@ -906,10 +906,20 @@ theorem IsGLB.exists_between' (h : IsGLB s a) (h' : a ∉ s) (hb : a < b) : ∃
 
 end LinearOrder
 
-theorem isGreatest_himp [GeneralizedHeytingAlgebra α] (a b : α) :
```
Comment (eric-wieser) [inline Mathlib/Order/Bounds/Basic.lean]: I think these were better explicit.

File: Mathlib/Order/Bounds/Basic.lean (hunk 13 above)
Comment (YaelDillies) [inline Mathlib/Order/Bounds/Basic.lean:925]: Here is a golf
```suggestion
theorem isGreatest_compl [HeytingAlgebra α] {a : α} : IsGreatest {w | Disjoint w a} aᶜ := by
  simp [IsGreatest, mem_upperBounds, le_compl_iff_disjoint_right, disjoint_compl_left]

theorem isLeast_hnot [CoheytingAlgebra α] {a : α} : IsLeast {w | Codisjoint a w} (￢a) := by
  simp [IsLeast, mem_lowerBounds, hnot_le_iff_codisjoint_right, codisjoint_hnot_right]
```

File: Mathlib/Order/Bounds/Basic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Order/Bounds/Basic.lean]: What's your argument for this? Mine for them being implicit is that they likely will never be used in a proof term that doesn't have enough context to prevent unification, and if ever that happens it would be better to add a type ascription rather than adding explicit arguments to some lemma in the middle of the proof term

File: Mathlib/Order/Bounds/Basic.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/Order/Bounds/Basic.lean:925]: I think my golf above is better?

File: Mathlib/Order/Bounds/Basic.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/Order/Bounds/Basic.lean]: I can see this being the type of thing where I'd want to write `have := isGreatest_himp (foo x) (bar x)`, and then think a little using the goal state before proceeding. I don't think that `_`s within a proof term are likely to matter, especially since probably nothing much is going to use these lemmas.

File: Mathlib/Order/Bounds/Basic.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Order/Bounds/Basic.lean:925]: I didn't see it before writing mine. My proof has the advantage of being independent of the `sdiff`/`himp` results

Comment (eric-wieser) [reply Mathlib/Order/Bounds/Basic.lean:925]: I think that's only an advantage if there is a scenario in which they hold more generally.

**Comment by Bergschaf** [comment]
I used eric's golf and the explicit arguments. Is this fine?

File: Mathlib/Order/Bounds/Basic.lean [hunk 15]
```diff
@@ -905,3 +905,19 @@ theorem IsGLB.exists_between' (h : IsGLB s a) (h' : a ∉ s) (hb : a < b) : ∃
...
+    IsGreatest {w | w ⊓ a ≤ b} (a ⇨ b) := by
+  simp [IsGreatest, mem_upperBounds]
+
+theorem isLeast_sdiff [GeneralizedCoheytingAlgebra α] (a b : α) :
+    IsLeast {w | a ≤ b ⊔ w} (a \ b) := by
+  simp [IsLeast, mem_lowerBounds]
+
+theorem isGreatest_compl [HeytingAlgebra α] (a : α) :
+    IsGreatest {w | Disjoint w a} (aᶜ) := by
+  simpa only [← himp_bot, disjoint_iff_inf_le] using (isGreatest_himp a ⊥)
```
Comment (eric-wieser) [inline Mathlib/Order/Bounds/Basic.lean:919]: Nit:
```suggestion
  simpa only [himp_bot, disjoint_iff_inf_le] using isGreatest_himp a ⊥
```

**Review by eric-wieser — APPROVED** [review]
Thanks!

**Review by YaelDillies — APPROVED** [review]

**Comment by YaelDillies** [comment]
Sorry, looks like we dropped the ball here.

maintainer merge

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
